* UVL-02 candidate circuit: TPS3700 rail_monitor divider inside RTDSensing
* (elec/src/modules.ato). See the harness's evidence JSON for the scope
* caveat -- this is NOT unambiguously "the" UVL-02 logic-UVLO circuit; it
* is the only board-level, model-backed, resistor-divider brownout monitor
* found anywhere in elec/src/modules.ato. The more literal candidate for
* "Logic (3.3V) UVLO" is the TPS3823-33 watchdog's built-in VDD supervisor
* (fixed silicon threshold, 2.93V typ per docs/hardware/
* SAFETY_INTERLOCK_DESIGN.md, no external divider, NO SPICE model exists
* in simulation/models/ for TPS3823) -- that candidate is reported
* UNMEASURED, not simulated here.
*
* CALIBRATED: false. No bench measurement exists for this circuit. Every
* component value below is copied read-only from the committed atopile
* source (elec/src/modules.ato: RTDSensing.rail_monitor). Nothing here was
* invented to make the answer come out a particular way.
*
* Sourced values (read-only, elec/src/modules.ato: RTDSensing):
*   - power.vcc (rail_monitor.VDD, direct, pre-ferrite):  3.3 V
*   - fb_power ("Using Resistor component as generic placeholder for
*     Ferrite Bead"):                                      120 ohm
*   - r_avdd_top:                                           619000 ohm
*     (2026-07-27: corrected from the fabricated 616000 ohm/ERA-3AEB6163V --
*     616k is not an E96/E192 value and that MPN does not exist at any
*     distributor. Replaced with 619k/ERA-6AEB6193V, confirmed real and
*     in-stock by direct DigiKey fetch -- see
*     docs/evidence/2026-07-27-era-resistor-resolution.md.)
*   - r_avdd_bottom:                                        100000 ohm
*   - r_rail_ok_pullup (external pull-up on open-drain OUTA):  10000 ohm
*   - TPS3700 INA threshold VIT_A: 394.5 mV (simulation/models/
*     TPS3700_ngspice.lib header: "typical 394.5 mV INA threshold ... from
*     TI's unencrypted TPS3700 PSpice transient model (SBVM552B) and
*     datasheet" -- NOT a value read from elec/, since TPS3700 has no
*     external threshold-setting pins; it is fixed silicon, exposed to the
*     board only via the resistor divider on INA_P.)
*
* Hand-derived trip (ignoring the ~120 ohm "ferrite" series drop, which
* only carries the divider's own ~4.6 uA bias current -- confirmed
* negligible, <1 mV, by comparing simulated V(vcc_3v3) against
* V(avdd_post_fb) at the trip instant):
*   V(INA_P) = V_vcc * 100000 / (619000 + 100000) = V_vcc / 7.19
*   Trip:  V_vcc / 7.19 = 0.3945  =>  V_vcc = 2.8367 V (falling)
* This is a ~12 mV increase from the previous (fabricated-resistor) nominal
* of 2.8250 V, consistent with the top resistor increasing from 616k to
* 619k. RTDSensing's own inline comment ("...approximately 2.82 V nominal
* UV threshold") is now marginally stale (2.82 V vs. the corrected 2.84 V)
* and should be nudged in a follow-up documentation pass.
*
* What this circuit actually monitors: RTD_AVDD, a post-ferrite rail
* downstream of power_3v3, feeding the RTD analog front end -- per its own
* component docstring in elec/src/components.ato: "Dual window supervisor;
* OUTA is low on RTD_AVDD undervoltage." It is wired into the same
* SafetyInterlock fault-OR tree as OCP/OVP/thermal (via rtd_hw_fault ->
* fault_any_or), so a live RTD_AVDD brownout DOES reach the board's overall
* fault-latch -- but it was authored as an RTD-subsystem safeguard, not
* declared anywhere as "the" system Logic UVLO circuit.

.include ../../models/TPS3700_ngspice.lib

.param RAMP_TIME=330u

V_VCC vcc_3v3 0 PWL(0 3.3 {RAMP_TIME} 0)
R_FB vcc_3v3 avdd_post_fb 120
R_AVDD_TOP avdd_post_fb ina_p 619000
R_AVDD_BOT ina_p 0 100000
R_PULLUP vcc_3v3 outa 10000
* OUTB (channel B, unused -- RTDSensing ties INB_N to gnd, never trips)
* needs a DC path to avoid a singular matrix; a large resistor to ground
* has no bearing on the OUTA measurement this deck cares about.
R_OUTB_TIEOFF outb_na 0 1meg

X_MON vcc_3v3 ina_p 0 outa outb_na 0 TPS3700_NGSPICE

.control
set noaskquit
tran 100n 330u
meas tran t_trip WHEN v(outa)=1.65 FALL=1
meas tran v_ina_p_at_trip FIND v(ina_p) AT={t_trip}
meas tran v_vcc_at_trip FIND v(vcc_3v3) AT={t_trip}
meas tran v_avdd_post_fb_at_trip FIND v(avdd_post_fb) AT={t_trip}
print t_trip
print v_ina_p_at_trip
print v_vcc_at_trip
print v_avdd_post_fb_at_trip
quit
.endc

.end
